US07465815B2
4,6-Dimethyl-2,3-dihydro-1-benzofuran
To a solution of 1-bromo-2-(2-chloroethoxy)-2,4-dimethylbenzene obtained in Reference Example 217 (8.70 g, 33.0 mmol) in THF (210 mL) was quickly added n-butyllithium (1.6 M hexane solution, 31 mL, 49.5 mmol) under argon atmosphere at 0° C., and the mixture was stirred for 30 minutes. The reaction solution was warmed to room temperature, to which ice was added, which was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, was filtered, and then was concentrated under reduced pressure to obtain 4.70 g (yield 96%) of the title compound. Oily matter.

reactant | 1-bromo-2-(2-chloroethoxy)-2,4-dimethylbenzene | BrC1C(C=C(C=C1)C)(C)OCCCl | C10H14BrClO
reactant | n-butyllithium | 49.5 mmol, 1.6 M, 31 mL | C(CCC)[Li]
solvent | THF | 210 mL | C1CCOC1 | C4H8O
product | 4,6-Dimethyl-2,3-dihydro-1-benzofuran | 4.70 g, yield 96% | CC1=CC(=CC2=C1CCO2)C | C10H12O
